US06121308
c. 1-ethoxycarbonylmethyl-2-[(4-amidinophenyl)-oxymethyl]-6-[N-(2-dimethylaminoethyl)-benzenesulphonylamino]-benzimidazole
Prepared analogously to Example 1e from 1-ethoxycarbonylmethyl-2-[(4-cyanophenyl)-oxymethyl]-6-[N-(2-dimethylaminoethyl)-benzenesulphonylamino]-benzimidazole and hydrochloric acid/ammonium carbonate in ethanol.

reactant | 1-ethoxycarbonylmethyl-2-[(4-cyanophenyl)-oxymethyl]-6-[N-(2-dimethylaminoethyl)-benzenesulphonylamino]-benzimidazole | C(C)OC(=O)CN1C(=NC2=C1C=C(C=C2)N(CCN(C)C)S(=O)(=O)C2=CC=CC=C2)COC2=CC=C(C=C2)C#N | C29H31N5O5S
reactant | hydrochloric acid ammonium carbonate | Cl.C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-ethoxycarbonylmethyl-2-[(4-amidinophenyl)-oxymethyl]-6-[N-(2-dimethylaminoethyl)-benzenesulphonylamino]-benzimidazole | C(C)OC(=O)CN1C(=NC2=C1C=C(C=C2)N(CCN(C)C)S(=O)(=O)C2=CC=CC=C2)COC2=CC=C(C=C2)C(N)=N | C29H34N6O5S
